US04182764
Step A: 3',3'-Dichloro-4'-methoxypropionphenone
A stirred mixture of 2,3-dichloroanisole (177.0 g., 1.0 mole) and propionyl chloride (101.8 g., 1.1 mole) in methylene chloride (600 ml.) is cooled to 5° C. and treated with aluminum chloride (146.7 g., 1.1 mole) during a 11/2 hour period. The reaction is allowed to warm to 25° C. and after 16 hours is poured into ice-water (2 l.) and concentrated hydrochloric acid (200 ml.). The organic phase is washed with 10% sodium hydroxide solution and saturated salt solution, and dried over magnesium sulfate. After evaporation of the solvent, the product is crystallized from hexane to give 124.5 g. (53%) of 2',3'-dichloro-4'-methoxypropionphenone which melts at 51°-54° C.

reactant | 2,3-dichloroanisole | 1.0 mole, 177.0 g | ClC1=C(C=CC=C1Cl)OC | C7H6Cl2O
reactant | propionyl chloride | 1.1 mole, 101.8 g | C(CC)(=O)Cl | C3H5ClO
reactant | aluminum chloride | 1.1 mole, 146.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 200 ml | Cl | ClH
reactant | 2',3'-dichloro-4'-methoxypropionphenone | ClC1=C(C=CC(=C1Cl)OC)C(CC)=O | C10H10Cl2O2
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
product | 3',3'-Dichloro-4'-methoxypropionphenone | ClC1(CC(=CC=C1OC)C(CC)=O)Cl | C10H12Cl2O2
